US06245773B1
To 4-Cyano-4-(2,4-difluorophenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.720 g, 2.42 mmol) in 5 ml of dichloromethane, 2 ml of trifluoroacetic acid was added and the solution stirred at room temperature for 1 hour. The solution was concentrated, neutralized with 10% KOH solution and extracted into 25 ml of dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated to give 0.484 g (90%) of 4-(2,4-difluorophenyl)-piperidine-4-carbonitrile which was used as such for the subsequent step.

reactant | 4-Cyano-4-(2,4-difluorophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.42 mmol, 0.720 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=C(C=C1)F)F)C#N | C17H20F2N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2,4-difluorophenyl)-piperidine-4-carbonitrile | 0.484 g, 90% | FC1=C(C=CC(=C1)F)C1(CCNCC1)C#N | C12H12F2N2
